US09278974B2
A mixture of 4-chloro-1-(2-(piperidin-1-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidine (50 mg, 0.188 mmol), 2-(tri-n-butylstannyl)oxazole (0.059 ml, 0.282 mmol) in toluene (3 mL) was introduced in a microwave vial. It was degassed by argon for 30 minutes followed by the addition of Pd(Ph3P)4 (22 mg, 19 mmol) after which the mixture was degassed for 10 additional minutes. The mixture was stirred at 100° C. for 30 min under microwave irradiation (150 W). The solvent was removed and the crude thus obtained was purified by flash chromatography to provide 2-(1-(2-(piperidin-1-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)oxazole as a cream-colored solid (37 mg, 0.12 mmol, 66%).

reactant | 4-chloro-1-(2-(piperidin-1-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.188 mmol, 50 mg | ClC1=C2C(=NC=N1)N(N=C2)CCN2CCCCC2 | C12H16ClN5
reactant | 2-(tri-n-butylstannyl)oxazole | 0.282 mmol, 0.059 ml | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Ph3P)4 | 19 mmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(1-(2-(piperidin-1-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)oxazole | 0.12 mmol, 37 mg, 66% | N1(CCCCC1)CCN1N=CC=2C1=NC=NC2C=2OC=CN2 | C15H18N6O
